data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_419580_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3](/[C:5](=[N:7]/[H:12])[H:13])=[N:6]/[H:11])([N:4]([H:9])[H:10])[H:8]>>[C:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[N:6]\[H:11])([N:4]([H:9])[H:10])(/[C:5](=[N:7]/[H:12])[H:13])[H:8],68.65853999997071
MR_522980_2,[C:1]12([H:9])[C:3]([H:14])([H:15])[C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[C:6]1([C:4]([N:7]([H:12])[H:13])([H:16])[H:17])[N:8]2[H:11]>>[C:1]1(/[C:6]([C:4]([N:7]([H:12])[H:13])([H:16])[H:17])=[N:8]\[H:11])([H:9])[C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[C:3]1([H:14])[H:15],54.332087499972914
MR_699953_0,[C:1]([C:4]([C:2]([H:16])([H:17])[H:18])=[C:6](/[C:3]([N:5]([H:10])[H:11])=[N:8]\[O:7][H:9])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([C:2]([H:16])([H:17])[H:18])[C:6]([H:12])=[C:3]([N:5]([H:10])[H:11])[N:8]1[O:7][H:9])([H:13])([H:14])[H:15],60.823575000027006
MR_120322_2,[C@@:1]([C:2]([H:11])([H:12])[H:13])([C:5]([C:3]([H:14])([H:15])[H:16])=[O:9])([C:6]([C:4]([H:17])([H:18])[H:19])=[C:7]([H:20])[H:21])[O:8][H:10]>>[C@@:1]1([C:2]([H:11])([H:12])[H:13])([O:8][H:10])[C@:5]([C:3]([H:14])([H:15])[H:16])([C:6]([C:4]([H:17])([H:18])[H:19])=[C:7]([H:20])[H:21])[O:9]1,62.30008249997312
MR_244218_1,[C:1](/[C:5](=[C:4](/[N:2]([C:3]([O:6][H:9])=[O:8])[H:11])[O:7][H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]([C:3]([O:6][H:9])=[O:8])(/[C:4](=[N:2]/[H:11])[O:7][H:10])[H:12])([H:13])([H:14])[H:15],62.26556999998891
MR_669383_0,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:3]([O:6][H:9])[N:8][C:5]([O:7][H:10])[H:11])([H:12])([H:13])[H:17]>>[C:1]([C:4]1([C:2]([H:14])([H:15])[H:16])[C:3]([O:6][H:9])=[N:8][C@@:5]1([O:7][H:10])[H:11])([H:12])([H:13])[H:17],27.66835749998449
MR_512284_2,[C:1]([C:2]([H:15])([H:16])[H:17])([C:4]12[C:5]([N:6]([H:9])[H:10])([C:7]1([C:3]([H:18])([H:19])[H:20])[H:14])[N:8]2[H:11])([H:12])[H:13]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:4](/[C:5]([N:6]([H:9])[H:10])=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:14])=[N:8]\[H:11])([H:12])[H:13],28.75142249996088
MR_639130_2,[C:1]([O:4][H:8])([O:5][H:9])=[N:6][C:2]([N:3]([H:10])[H:11])=[O:7]>>[C:1]1([O:4][H:8])([O:5][H:9])[N:6]=[C:2]([N:3]([H:10])[H:11])[O:7]1,52.35797249996338
MR_174757_1,[C:1](/[C:4]([C:6](=[C:5]([C:2]([H:15])([H:16])[H:17])[C:3]([H:14])([H:18])[H:19])[H:10])=[N:8]\[O:7][H:9])([H:11])([H:12])[H:13]>>[C:1]([C:4]1=[C:6]([H:10])[C:5]([C:2]([H:15])([H:16])[H:17])([C:3]([H:14])([H:18])[H:19])[N:8]1[O:7][H:9])([H:11])([H:12])[H:13],39.05936500001005
MR_234093_2,[C:1]([C:4]([C@@:2]([C:3]([H:17])([H:18])[H:19])([N:7]([H:15])[H:16])[H:10])=[O:8])([N:5]([H:12])[H:13])([N:6]([H:11])[H:14])[H:9]>>[C:1]([C@@:2]([C:3]([H:17])([H:18])[H:19])([C:4]([N:7]([H:15])[H:16])=[O:8])[H:10])([N:5]([H:12])[H:13])([N:6]([H:11])[H:14])[H:9],63.494214999990106
MR_27419_2,[N:1](/[C:2]([N:3]([H:9])[H:10])=[C:5](/[N:4]([H:11])[H:12])[H:13])([O:6][H:7])[H:8]>>[N:1]1([H:8])[C:2]([N:3]([H:9])[H:10])([C:5]([N:4]([H:11])[H:12])([H:7])[H:13])[O:6]1,48.76428000001226
MR_460937_1,[C:1]([C:3]1=[C:6]([H:11])[C:5]1([C:2]([N:4]([H:8])[H:9])=[O:7])[H:10])([H:12])([H:13])[H:14]>>[C:1]([C:3]12[C:2]([N:4]([H:8])[H:9])([C:5]([H:10])=[C:6]1[H:11])[O:7]2)([H:12])([H:13])[H:14],51.3451874999879
MR_215727_1,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([O:8][H:10])=[O:9])([C:6]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:4]([C:2]([H:13])([H:14])[H:15])[C@@:6]1([C:3]([H:16])([H:17])[H:18])[C:7]([C:5]([O:8][H:10])=[O:9])([H:19])[H:20],72.53209749999996
MR_504324_0,[N:1]1([C:2]([N:4]([H:8])[H:9])=[O:7])[C:3](=[C:5]([H:10])[H:11])[O:6]1>>[N:1]1=[C:2]([N:4]([H:8])[H:9])[O:7][C:3](=[C:5]([H:10])[H:11])[O:6]1,38.07983750002194
MR_333729_0,[C:1](/[C:5](=[C:3](/[N:2]([O:6][H:8])[O:7][H:9])[N:4]([H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5](/[C:3](=[N:2]\[O:6][H:8])[N:4]([H:10])[H:11])([O:7][H:9])[H:12])([H:13])([H:14])[H:15],35.73047749999674
MR_51678_1,[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[O:6])([O:5][H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:6])[H:9])([C:3](=[C:4]([H:11])[H:12])[H:10])([O:5][H:7])[H:8],71.61971249998501
MR_258469_0,[C:1](/[C:2](=[C:3](/[O:6][H:9])[H:12])[O:4][H:7])([O:5][H:8])([H:10])[H:11]>>[C:1](=[C:2]([C:3]([O:5][H:8])([O:6][H:9])[H:12])[O:4][H:7])([H:10])[H:11],55.66489749999647
MR_158650_0,[N:1]([C:2]([N:5]([H:11])[H:12])=[C:6]([H:13])[H:14])([N:3]([H:7])[H:8])[N:4]([H:9])[H:10]>>[N:1](\[C:2]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C:6]([H:8])([H:13])[H:14])=[N:3]/[H:7],60.18980000002202
MR_376556_2,[C:1]([C:2]([N:4]=[O:6])([H:14])[H:15])([C:5]([C:3]([H:16])([H:17])[H:18])([O:7][H:11])[O:9][H:10])([O:8][H:12])[H:13]>>[C:1]([C:2]([N:4]([C:3]([H:16])([H:17])[H:18])[O:6][H:10])([H:14])[H:15])([C:5]([O:7][H:11])=[O:9])([O:8][H:12])[H:13],62.04029750002263
MR_483529_1,[C@@:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:7]1)([C:4]([H:14])([H:15])[H:16])([C:6]([C:5]([H:17])([H:18])[H:19])=[O:9])[O:8][H:10]>>[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[O:7]1)([C:4]([H:14])([H:15])[H:16])([C:6]([C:5]([H:17])([H:18])[H:19])=[O:9])[O:8][H:10],59.520257500000326
